US08039460B2
Step A: (6S,9R)-9-[(tert-Butoxycarbonyl)amino]-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine-3-carboxylic acid
Sodium dihydrogen phosphate (127 mg, 0.92 mmol) and sodium chlorite (42 mg, 0.46 mmol) were added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-formyl-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (45 mg, 0.12 mmol) in tetrahydrofuran (0.8 mL), water (0.8 mL), tert-butanol (0.2 mL), and 2-methyl-2-butene (0.2 mL). After 3 h of vigorously stirring, the reaction mixture was quenched with saturated solution of ammonium chloride. The mixture was extracted with ethyl acetate (3×), and the combined organic extracts were washed with water, saturated brine, dried over sodium sulfate, filtered and concentrated. MS 408.1 (M+1).

reactant | Sodium dihydrogen phosphate | 0.92 mmol, 127 mg | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 0.46 mmol, 42 mg | Cl(=O)[O-].[Na+]
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-formyl-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.12 mmol, 45 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C=O)NC(OC(C)(C)C)=O | C20H23F2N3O3
reactant | 2-methyl-2-butene | 0.2 mL | CC(C)=CC | C5H10
solvent | tetrahydrofuran | 0.8 mL | O1CCCC1 | C4H8O
solvent | water | 0.8 mL | O | H2O
solvent | tert-butanol | 0.2 mL | C(C)(C)(C)O | C4H10O
product | (6S,9R)-9-[(tert-Butoxycarbonyl)amino]-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine-3-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H]1C=2N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)C(=CN2)C(=O)O | C20H23F2N3O4
